US05733914
To a solution of (4-ethylamino-2-phenylamino-pyrimidin-5-yl)methanol (173 mg, 0.71 mmol) in 15 mL of chloroform was added manganese oxide (600 mg, 6.89 mmol). After stirring at room temperature overnight, the mixture was filtered through a pad of Celite, washing with chloroform. The filtrate was concentrated in vacuo to give 170 mg (99%) of 4-ethylamino-2-phenylamino-pyrimidine-5-carbaldehyde; mp 155°-157° C.

reactant | (4-ethylamino-2-phenylamino-pyrimidin-5-yl)methanol | 0.71 mmol, 173 mg | C(C)NC1=NC(=NC=C1CO)NC1=CC=CC=C1 | C13H16N4O
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese oxide | 6.89 mmol, 600 mg | [O-2].[Mn+2]
product | 4-ethylamino-2-phenylamino-pyrimidine-5-carbaldehyde | 170 mg, 99% | C(C)NC1=NC(=NC=C1C=O)NC1=CC=CC=C1 | C13H14N4O
